US05442063
N-Methyl-2-(2-phenoxyphenyl)-2-oxoacetamide (2.55 g, 10 mmol) was dissolved in methyl alcohol (10 ml). Hydroxylamine sulfate (0.99 g, 12 mmol) was added, followed by heating under reflux for 3 hours. After completion of the reaction, methyl alcohol was evaporated under reduced pressure. Toluene (10 ml) and conc. hydrochloric acid (1.04 g) were added to the resulting residue (E/Z=41/59), and the mixture was stirred at room temperature for 20.5 hours. After completion of the reaction, water (300 ml) was added. The mixture was extracted with ethyl acetate (300 ml), washed with brine twice, dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give (E)-N-methyl-2-(2-phenoxyphenyl)-2-hydroxyiminoacetamide (2.58 g, Yield: 95.6%, E/Z=96/4).

reactant | N-Methyl-2-(2-phenoxyphenyl)-2-oxoacetamide | 10 mmol, 2.55 g | CNC(C(=O)C1=C(C=CC=C1)OC1=CC=CC=C1)=O | C15H13NO3
reactant | Hydroxylamine sulfate | 12 mmol, 0.99 g | S(=O)(=O)(O)O.NO
solvent | methyl alcohol | 10 ml | CO | CH4O
product | (E)-N-methyl-2-(2-phenoxyphenyl)-2-hydroxyiminoacetamide | 2.58 g, Yield: 95.6% | CNC(/C(=N/O)/C1=C(C=CC=C1)OC1=CC=CC=C1)=O | C15H14N2O3
